Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
"my drinking got worse"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yo SBM c PMH sig for HIV (untreated, counts 
unknown) c/b alcohol dependence and depressed mood who had 
initially self-presented to see a social worker at ___ 
___ yesterday looking for help & support.  
Unfortunately, Mr. ___ went to ___ while intoxicated 
(took a pint of brandy with him and drank it at some point 
during the course of the day).  At ___, he said that he 
"must have caused some problems," although he is not sure 
exactly what happened.  He was sent to ___ for further 
evaluation related to need for substance abuse treatment and 
possible suicidality.  At ___ he was still quite agitated in 
the context of his
intoxication and required Haldol 5 mg IM and Ativan 2 mg IM. 
This morning, he is calm and cooperative now that he is 
clinically sober.

Mr. ___ reported that he does not know where else to turn or 
how to handle situations in his life.  He feels depressed and is 
relatively socially isolated outside of drinking alcohol and 
playing playstation.  Mr. ___ is not sleeping well unless he 
takes mirtazepine.  He is not eating well and has a poor 
appetite (his clothes are getting looser).  He feels overwhelmed 
by his
life and somewhat helpless.  He has been using alcohol to manage 
his mood, starting with a drink first thing in the morning, 
though he is not having early morning tremors.  Mr. ___ 
reported that in the throes of feeling overwhelmed and helpless 
he had thoughts of suicide and actually scratched at his wrist 
last night while intoxicated.  Mr. ___ denied any h/o 
psychotic or manic symptoms.

Current stressors include possibly losing his current living 
situation, having an open ___ case, being estranged from young 
daughter, dealing with chronic medical illness and struggling 
with limited social supports.

 
Past Medical History:
PAST PSYCH HX:  No h/o formal psychiatric treatment, but has
struggled with depression in the past.  Saw a social worker
___ in the past at ___s.  See HPI for more
details.

PMH:  HIV + (acquired in utero), not on HAART or any 
prophylaxis.
Patient thinks he has had PCP and has definitely had shingles. 
PMD is Dr. ___ at ___, although he has not seen her in
at least several months.
 
Social History:
Raised by an older brother in ___ area of ___.  Both 
parents are deceased, but patient did not know details.  Left HS 
in the ___ grade for a series of complicated reasons that seems 
related to moving from ___ to ___ his brother and 
being placed back in the ___ grade.  Patient left school at 
that point.  Patient reported a h/o legal problems, including 
serving a 7 month stint and then 10 months on an ankle bracelet 
at home for charges of A & B with DW (gun).  Patient reported 
that he was framed for this charge.  He has also had convictions 
for OUIs.  He is currently on probation in ___nd had a ___ date that he missed yesterday in ___ 
___ on allegations of destruction of property.  Mr. ___ 
could not recall the name of his PO in ___, but could 
give me the name of his PO in ___.  He gave me verbal 
permission for contact with his PO Mr. ___ (? sp). 
We've left a message for Mr. ___ at ___ to inform 
him that Mr. ___ is in the hospital, no other details left.  
 

Mr. ___ is currently living with a roommate ___ in the
community, although he reported that he is about to lose this
housing situation due to complicated situation with roommate. 
Patient alluded to some destructive behavior in the home (see
aforementioned allegations), although denied any thoughts or
plans of hurting roommate.  Patient denied having ready access 
to
a gun.  Mr. ___ is a father to a young daughter, although he
does not have any contact with his daughter or his daughter's
mother.  Mr. ___ works as an ___ for ___
and reported that he has working regularly for the most part,
although he will be able to take some time off to work on his
depression and alcohol problems.

Mr. ___ is unaware of details re family medical or
psychiatric history.  Some contact with an aunt, but the rest of
his family is scattered around.

 
Family History:
None known.
 
Physical Exam:
VS:  BP:  142/101 HR: 87  temp:98.2  resp:16 O2 sat: 98%RA 
height:   weight:
HEENT: NC/AT, nonicteric sclera, PERRL, EOMI, no LAD, no
thyromegaly, oral mucosa pink and moist, no erythema or exudates
seen
CV: RRR, no m/r/g
Lungs: CTA Bilaterally
Abd: +BS, NT, ND
Ext: 2+ pedal pulses, no ___ edema
  Neurological:
    *station and gait: gait intact, can heel and toe walk,
negative Robmberg
    *tone and strength: ___ strength in UE and ___ bilaterally,
normal tone
    cranial nerves: CN II-XII grossly intact
    abnormal movements: none
    
  *Appearance: thin AA male, in oversized sweatshirt and pants,
sitting up in chair
  Behavior: cooperative, good eye contact
  *Mood and Affect: "depressed", dysphoric
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
linear, goal directed
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): denies current AH, VH, HI, SI
  *Judgment and Insight: limited
  Cognition:
    *Attention, *orientation, and executive function:A+O x 3
    *Memory: ___ registration and ___ recall 
    *Fund of knowledge: fair
    *Speech: soft, slightly monotone
    *Language: no paraphasic errors

 
Pertinent Results:
___ 07:19PM   ALT(SGPT)-73* AST(SGOT)-151* ALK PHOS-121 TOT 
BILI-1.0
___ 07:19PM   TSH-3.0
___ 07:19PM    WBC-4.5  LYMPH-16* ABS LYMPH-720 CD3-73 ABS 
CD3-524* CD4-2 ABS CD4-13* CD8-63 ABS CD8-453 CD4/CD8-0.03*
___ 04:00PM   GLUCOSE-89 UREA N-7 CREAT-0.8 SODIUM-146* 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-30 ANION GAP-16
___ 04:00PM   ALT(SGPT)-54* AST(SGOT)-95* ALK PHOS-123 TOT 
BILI-0.4
___ 04:00PM   TSH-0.93
___ 04:00PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:00PM   WBC-4.7 RBC-5.59 HGB-17.3 HCT-49.9 MCV-89 
MCH-31.0 MCHC-34.7 RDW-12.4
___ 04:00PM   NEUTS-74.3* ___ MONOS-2.4 EOS-0.9 
BASOS-0.2
___ 04:00PM   PLT COUNT-146*
___ 07:19PM BLOOD  WBC-4.5 Lymph-16* Abs ___ CD3%-73 
Abs CD3-524* CD4%-2 Abs CD4-13* CD8%-63 Abs CD8-453 
CD4/CD8-0.03*
HIV-1 Viral Load/Ultrasensitive (Final ___: 
      21,100 copies/ml.
 
Brief Hospital Course:
Pt was admitted to the ___ inpatient Psychiatry unit.

Psychiatric: Pt was continued on Remeron and Lamictal.  He was 
placed on CIWA scale for alcohol withdrawal.  This was 
discontinued on ___.  Pt reported difficulty sleeping the 
previous night; after a discussion of risks and benefits, he 
agreed to a trial of trazodone for sleep. 

Psychosocial:  
Pt agreed that he needed to quit drinking.  He minimized the 
effort that this would take. He had been mandated to alcohol 
treatment previously but had not followed through. ....

Due to pt's violent outburst in the Children's ED, decision was 
made by ___ administration that he would not be able to 
return there for treatment.  Treatment team at ___ was 
committed to helping manage his transition to adult care 
elsewhere.  Pt's case manager, ___, felt she could 
continue to serve in this capacity and meet with pt off-site.  
....

Medical: CD4 count and HIV viral load were obtained.  CD4 count 
was 13, HIV viral load 21,100 copies/mL.  Pt was started on 
Bactrim and azithromycin for PCP and MAC prophylaxis.  With pt's 
permission, team spoke with Dr. ___ of ___ 
___.  She recommended that he resume his most recent HAART 
regimen if he was able.

Legal: ___
Medications on Admission:
mirtazipine 15mg po qhs prn, omeprazole 20mg po

 
Discharge Medications:
1. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
4. Lamotrigine 25 mg Tablet Sig: ___ Tablets PO twice a day: 
From today take one tablet in the morning and two at night.
After 5 days of above start taking 2 tablet two times a day.
Disp:*60 Tablet(s)* Refills:*0*
5. Mirtazapine 45 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*0*
6. Clonidine 0.1 mg Tablet Sig: 0.5 Tablet PO BID (2 times a 
day).
Disp:*15 Tablet(s)* Refills:*0*
7. Sulfamethoxazole-Trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
8. Azithromycin 600 mg Tablet Sig: Two (2) Tablet PO 1X/WEEK 
(TH) as needed for MAC prophylaxis.
Disp:*10 Tablet(s)* Refills:*0*
9. Trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed for insomnia.
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dysthymia. R/o Depressive disorder independent of ETOH abuse.
ETOH abuse

 
Discharge Condition:
Stable

A Ox3
Appearance : Casual
Cooperation : Good behavioral control, normal rapport.
Cognition: grossly intact 
Speech: Fluent
Abnormal Movements: None observed.
Mood: 'Ok' / Affect: normal range
Thoughts: No overt delusions,  Process: No FOI, No LOA, No Tang, 
No Circum, No Derailing, No Thought Block, No Thought  
broadcast/transfer
No active SI or HI reported.
Abnormal perceptions: No hallucinations reported. No behavior 
suggesting that.
Ins/Jud : Fair/ Fair

 
Discharge Instructions:
Take your medication as prescribed.
Follow up (as below)
If unsafe/ out of control, plz go to nearest Emergency room, or 
call ___.

 
Followup Instructions:
___